US04672066
A mixture of 24.25 g of 1-(2,4-dihydroxy-3-propylphenyl) ethanone, 16.0 ml of ethyl chloroacetate and 26 g of anhydrous potassium carbonate in 375 ml of anhydrous acetone was stirred at reflux for 17 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was crystallized from ethanol to give 27.2 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid, the titled compound, mp 61°-64°, (78% yield) in two crops.

reactant | 1-(2,4-dihydroxy-3-propylphenyl) ethanone | 24.25 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | ethyl chloroacetate | 16.0 ml | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 375 ml | CC(=O)C | C3H6O
product | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid | 27.2 g | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)O | C13H16O5
